US20010041760A1
A 2.8-kg portion of maleic anhydride, 10 g of lauryl mercaptane, 6.3 g of t-butyl peroxypivalate, and 19 L of isopropyl acetate were charged into a 30-L autoclave equipped with a Max Blend type stirrer, a nitrogen introducing pipe, an olefin-introducing pipe, a thermometer, and a gas-releasing pipe. The inside of the autoclave was purged with nitrogen several times. Then 5.2 L of liquified isobutene was charged therein. The reaction was allowed to proceed at 70° C. for 6 hours. The formed particulate matter was collected by centrifuge, and was dried to obtain 4.4 kg of maleic anhydride-isobutene copolymer. The copolymer was found to contain maleic anhydride at a content of 50 mol % by elemental analysis, and to have a weight-average molecular weight of 200,000.

reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | t-butyl peroxypivalate | 6.3 g | C(C(C)(C)C)(=O)OOC(C)(C)C | C9H18O3
reactant | isopropyl acetate | 19 L | C(C)(=O)OC(C)C | C5H10O2
product | maleic anhydride isobutene | 4.4 kg | C1(\C=C/C(=O)O1)=O.C=C(C)C | InChI=1S/C4H2O3.C4H8/c5-3-1-2-4(6)7-3;1-4(2)3/h1-2H;1H2,2-3H3
